US05380742
5.5 1-(1-Methylethyl)-5-(1,1-dimethylethoxy)carbonyl-5,6-dihydro-4H-thieno[3,4-c]pyrrole.
3.7 g (59 mmol) of ammonium formate and then 0.9 g of 10% palladium-on-charcoal are added to a solution of 0.78 g (2.9 mmol) of 1-(1-propen-2-yl)-5-(1,1-dimethylethoxy)carbonyl-5,6-dihydro-4H-thieno[3, 4-c]pyrrole in 40 ml of methanol. The reaction mixture is heated at reflux for 8 hours, then filtered on a Celite column and evaporated to dryness. The residue is taken up in 50 ml of ethyl acetate, washed with 20 ml of water, dried over sodium sulphate and evaporated to dryness. After purification on a silica column using the 1/4 ethyl acetate/hexane eluent mixture, 0.49 g of an oily product is obtained. Yield 63%.

reactant | ammonium formate | 59 mmol, 3.7 g | C(=O)[O-].[NH4+]
reactant | 1-(1-propen-2-yl)-5-(1,1-dimethylethoxy)carbonyl-5,6-dihydro-4H-thieno[3, 4-c]pyrrole | 2.9 mmol, 0.78 g | C=C(C)C=1SC=C2C1CN(C2)C(=O)OC(C)(C)C | C14H19NO2S
solvent | methanol | 40 ml | CO | CH4O
catalyst | palladium-on-charcoal | 0.9 g | [Pd] | Pd
product | 1-(1-Methylethyl)-5-(1,1-dimethylethoxy)carbonyl-5,6-dihydro-4H-thieno[3,4-c]pyrrole | 0.49 g, Yield 63% | CC(C)C=1SC=C2C1CN(C2)C(=O)OC(C)(C)C | C14H21NO2S
